US05141674
50 mg of micronised fenoterol HBr was dispersed uniformly in a solution of soy-bean lecithin (600 mg) 95% pure in 2 g of Arcton 11. The Arcton 11 was allowed to flash off, leaving behind a dispersion of fenoterol particles in lipid. To this dispersion, 5 g of micronised lactose was added. The resultant powder composition was tumbled in a ball-mill to ensure uniform mixing.

reactant | fenoterol HBr | 50 mg | CC(CC=1C=CC(=CC1)O)NCC(C=2C=C(C=C(C2)O)O)O.Br
solvent | Arcton 11 | 2 g | C(F)(Cl)(Cl)Cl | CCl3F
product | fenoterol | CC(CC=1C=CC(=CC1)O)NCC(C=2C=C(C=C(C2)O)O)O | C17H21NO4
